US05314998
A mixture of 3.43 g pyridinium 3-hydroxy-4-(N-benzoylamino)-1-naphthalenesulfonate and 10 ml thionyl chloride was refluxed for 3.5 hours. Toluene (20 ml) was added and the excess thionyl chloride was distilled off with toluene under reduced pressure. The solid residue was dissolved in 50 ml methylene chloride and 10 ml diethylamine was added portionwise while stirring. After 30 min, the reaction mixture was poured into 100 ml ice-water and extracted with 100 ml dichloromethane. The organic phase was separated, washed with water, and dried over sodium sulfate. Evaporation of the solvent gave 2.52 g N,N-diethyl-2-phenylnaphth[1,2-d]oxazole-5-sulfonamide of high purity by NMR. Recrystallization from 95% ethanol gave an analytical sample, m.p. 157° C.

reactant | pyridinium 3-hydroxy-4-(N-benzoylamino)-1-naphthalenesulfonate | 3.43 g | OC=1C=C(C2=CC=CC=C2C1NC(C1=CC=CC=C1)=O)S(=O)(=O)[O-].[NH+]1=CC=CC=C1
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-diethyl-2-phenylnaphth[1,2-d]oxazole-5-sulfonamide | 2.52 g | C(C)N(S(=O)(=O)C1=CC2=C(N=C(O2)C2=CC=CC=C2)C2=CC=CC=C12)CC | C21H20N2O3S
